US06949552B2
2.1 g of 1-t-Butoxycarbonyl-4-(1-(4-fluorophenyl)-2-{4-[4-(2-methoxynaphthalen-1-yl)butyl]piperazin-1-yl}-2-oxoethyl)piperidine was dissolved in 10 ml of methanol, and 10 ml of 4M hydrogen chloride/1,4-dioxane solution was added, followed by stirring at room temperature for 2 hours. After concentration of the reaction solution under reduced pressure, to the residue was added ether, followed by stirring at room temperature. The precipitated crystals were filtered and washed with ether to give 1.7 g of 4-(1-(4-fluorophenyl)-2-{4-[4-(2-methoxynaphthalen-1-yl)butyl]piperazin-1-yl}-2-oxoethyl)piperidine dihydrochloride.

reactant | 1-t-Butoxycarbonyl-4-(1-(4-fluorophenyl)-2-{4-[4-(2-methoxynaphthalen-1-yl)butyl]piperazin-1-yl}-2-oxoethyl)piperidine | 2.1 g | C(C)(C)(C)OC(=O)N1CCC(CC1)C(C(=O)N1CCN(CC1)CCCCC1=C(C=CC2=CC=CC=C12)OC)C1=CC=C(C=C1)F | C37H48FN3O4
reactant | hydrogen chloride 1,4-dioxane | 4M, 10 ml | Cl.O1CCOCC1
reactant | ether | CCOCC | C4H10O
solvent | methanol | 10 ml | CO | CH4O
product | 4-(1-(4-fluorophenyl)-2-{4-[4-(2-methoxynaphthalen-1-yl)butyl]piperazin-1-yl}-2-oxoethyl)piperidine dihydrochloride | 1.7 g | Cl.Cl.FC1=CC=C(C=C1)C(C(=O)N1CCN(CC1)CCCCC1=C(C=CC2=CC=CC=C12)OC)C1CCNCC1 | InChI=1S/C32H40FN3O2.2ClH/c1-38-30-14-11-24-6-2-3-7-28(24)29(30)8-4-5-19-35-20-22-36(23-21-35)32(37)31(26-15-17-34-18-16-26)25-9-12-27(33)13-10-25;;/h2-3,6-7,9-14,26,31,34H,4-5,8,15-23H2,1H3;2*1H
